US05852019
1-[5-Methyl-1-(2-pyrimidinyl)-4-pyrazolyl]-3-[4-(2-chlorophenyl)-1-piperazinyl]-1-trans-propene hydrochloride
3.7 g of 1-[5-methyl-1-(2-pyrimidinyl)-4-pyrazolyl]-3-[4-(2-chlorophenyl)-1-piperazinyl]-1-propanone hydrochloride was dissolved in 300 ml of methanol. After adding 1.25 g of sodium boron hydride, the obtained mixture was stirred at room temperature for 2 hours. To the reaction mixture was further added 0.6 g of sodium boron hydride followed by stirring for 2 hours. Under ice cooling, water was added to the reaction mixture and the methanol was removed by evaporation. The residue was extracted with chloroform and the extract was washed with a saturated aqueous solution of sodium chloride and dried over anhydrous sodium sulfate. After evaporating the solvent, the residue was subjected to silica gel column chromatography and developed with a solvent mixture (chloroform/methanol, 30:1) to thereby give 1-[5-methyl-1-(2-pyrimidinyl)-4-pyrazolyl]-3-[4-(2-chlorophenyl-)1-piperazinyl]-1-propanol. Next, 16 ml of a 1N hydrochloric acid/ethanol solution was added to the product. After dissolving by heating, ether was further added thereto. The crystals thus precipitated were collected by filtration to thereby give 1.26 g of the title compound.

reactant | 1-[5-methyl-1-(2-pyrimidinyl)-4-pyrazolyl]-3-[4-(2-chlorophenyl)-1-piperazinyl]-1-propanone hydrochloride | 3.7 g | Cl.CC1=C(C=NN1C1=NC=CC=N1)C(CCN1CCN(CC1)C1=C(C=CC=C1)Cl)=O
reactant | sodium boron hydride | 1.25 g | B.[Na]
reactant | sodium boron hydride | 0.6 g | B.[Na]
reactant | water | O | H2O
solvent | methanol | 300 ml | CO | CH4O
product | 1-[5-Methyl-1-(2-pyrimidinyl)-4-pyrazolyl]-3-[4-(2-chlorophenyl)-1-piperazinyl]-1-trans-propene hydrochloride | 1.26 g | Cl.CC1=C(C=NN1C1=NC=CC=N1)\C=C\CN1CCN(CC1)C1=C(C=CC=C1)Cl | InChI=1S/C21H23ClN6.ClH/c1-17-18(16-25-28(17)21-23-9-5-10-24-21)6-4-11-26-12-14-27(15-13-26)20-8-3-2-7-19(20)22;/h2-10,16H,11-15H2,1H3;1H/b6-4+;
